US04198424
1-(3-hydroxyphenyl)-2-(1-methyl-2-pyrrolidinyl)ethanone
40.5 of 1-(3-methoxyphenyl)-2-(1-methyl-2-pyrrolidinyl)ethanone are boiled under reflux for 6 hours with 180 ml of acetic acid and 180 ml of 47% hydrobromic acid. After concentration of the solution, the oily residue is brought to crystallization through treatment with 150 ml of hot ethanol. Cooling is allowed to take place, and 39.8 g (76% of theory) of the hydrobromide of the title compound is filtered off as greenish crystals: m.p. 165° to 168°.

reactant | 1-(3-methoxyphenyl)-2-(1-methyl-2-pyrrolidinyl)ethanone | COC=1C=C(C=CC1)C(CC1N(CCC1)C)=O | C14H19NO2
reactant | hydrobromic acid | 180 ml | Br | BrH
solvent | acetic acid | 180 ml | C(C)(=O)O | C2H4O2
product | 1-(3-hydroxyphenyl)-2-(1-methyl-2-pyrrolidinyl)ethanone | OC=1C=C(C=CC1)C(CC1N(CCC1)C)=O | C13H17NO2
